US05204373
2-Methyl-6-Hydroxy-1-Tetralone (9)
2-Methyl-6-Methoxy-1-Tetralone (19 g, 0.1 mole) and pyridine hydrochloride (53.1 g, 0.46 mole) were heated neet, under a nitrogen sweep at about 220° for about 2 hours. The melt was cooled, acidified with 1N HCl and dissolved in ethyl acetate. The organic layers were dried (brine, MgSO4) and concentrated in vacuo. Purification by flash chromatography [gradient 7:1 to 5:1 EtOAc:Hexanes] yielded the title compound as a light yellow solid (14.8 g, 0.084 mole, 84% yield), [Lit. Buchta et al., Ann. 576, 7-19 (1952)].

reactant | 2-Methyl-6-Methoxy-1-Tetralone | 0.1 mole, 19 g | CC1C(C2=CC=C(C=C2CC1)OC)=O | C12H14O2
reactant | pyridine hydrochloride | 0.46 mole, 53.1 g | Cl.N1=CC=CC=C1
reactant | HCl | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-6-Hydroxy-1-Tetralone | 0.084 mole, 14.8 g, 84% yield | CC1C(C2=CC=C(C=C2CC1)O)=O | C11H12O2
